US05276049
1-(4-Cyano-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl] -imidazolidin-2-thione
Prepared by heating 1-(4-cyano-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one with 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetan-2,4-disulphide in xylene.

reactant | 1-(4-cyano-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one | C(#N)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O | C20H19N3O3
reactant | 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetan-2,4-disulphide | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-Cyano-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl] -imidazolidin-2-thione | C(#N)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=S | C20H19N3O2S
